US06933387B2
a) (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-4-chloro-1H-indole-2-carboxylic acid ethyl ester
The title compound, m.p.: 115-119° C., ISP-MS: m/e=381.3 (M+H+) and aD20=−8.0, was prepared in accordance with the general method of example 12b) from 4-chloro-1H-indole-2-carboxylic acid ethyl ester and (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester.

reactant | 4-chloro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC(=C2C1)Cl | C11H10ClNO2
reactant | (S)-5-methyl-2,2-dioxo-[1,2,3]oxathiazolidine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1S(O[C@H](C1)C)(=O)=O | C8H15NO5S
product | (R)-1-(2-tert-Butoxycarbonylamino-1-methyl-ethyl)-4-chloro-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC(=C2C1)Cl)[C@@H](CNC(=O)OC(C)(C)C)C | C19H25ClN2O4
